US05231183
(E)-N-(6,6-Dimethyl-2-hepten-4-ynyl)-propylamine hydrochloride
To 7.5 ml of tetrahydrofuran were added 850 mg (5 mmol) of (E)-N-(3-chloro-2-propenyl)propylamine hydrochloride, 47.6 mg (0.25 mmol) of copper (I) iodide, 2.4 mg (0.1 mmol) of palladium acetate and 52.5 mg (0.2 mmol) of triphenylphosphine, and further, 1.48 ml (15 mmol) of n-butylamine and 0.74 ml (6 mmol) of tert-butylacetylene under ice cooling. The mixture was stirred for 20 hours at room -.temperature, and concentrated under reduced pressure. The residue was subjected to silica gel chromatography (n-hexane→n-hexane/ethyl acetate=3/2). The desired fractions were put together and concentrated under reduced pressure. The residue was dissolved with 15 ml of 23% hydrogen chloride methanol solution, and the solvent and excess hydrogen chloride were distilled off. The resulting crystals were suspended in 3 ml of a mixture of ethyl acetate and diisopropyl ether (1/1), filtered, washed with 1 ml of the same solvent and dried to obtain 780 mg (yield: 72%) of the above identified compound as slightly yellowish brown crystalline powder.

reactant | (E)-N-(3-chloro-2-propenyl)propylamine hydrochloride | 5 mmol, 850 mg | Cl.Cl/C=C/CNCCC
reactant | triphenylphosphine | 0.2 mmol, 52.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | n-butylamine | 15 mmol, 1.48 ml | C(CCC)N | C4H11N
reactant | tert-butylacetylene | 6 mmol, 0.74 ml | C(C)(C)(C)C#C | C6H10
catalyst | copper (I) iodide | 0.25 mmol, 47.6 mg | [Cu]I
catalyst | palladium acetate | 0.1 mmol, 2.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | tetrahydrofuran | 7.5 ml | O1CCCC1 | C4H8O
product | (E)-N-(6,6-Dimethyl-2-hepten-4-ynyl)-propylamine hydrochloride | yield: 72% | Cl.CC(C#C/C=C/CNCCC)(C)C | InChI=1S/C12H21N.ClH/c1-5-10-13-11-8-6-7-9-12(2,3)4;/h6,8,13H,5,10-11H2,1-4H3;1H/b8-6+;
